US06100292
3-Nitrophenylacetic acid (7.20 g, 39.6 mmol) and then dicyclohexylcarbodiimide (8.6 g, 42 mmol) were added to a 1,2-dichloroethane (100 ml) suspension of 4-hydroxy-6-methyl-2-pyrone (5.00 g, 39.6 mmol) at room temperature, then 4-dimethylaminopyridine (0.24 g, 2.0 mmol) added and stirring carried out for 1 hour at 60° C., after which further 4-dimethylaminopyridine (0.48 g, 4.0 mmol) was added and stirring performed for 6 hours at 60° C. While the solution was still warm, the dicyclohexylurea was filtered off, and the reaction solution washed with dilute hydrochloric acid (50 ml), after which the aqueous layer was extracted with dichloromethane. After drying with anhydrous sodium sulphate, the solvent was distilled off and separation and purification carried out column chromatography. When recrystallization was performed from ethanol, 4-hydroxy-6-methyl-3-(3-nitrophenylacetyl)-2-pyrone (6.60 g, 58%) was obtained as white crystals.

reactant | 3-Nitrophenylacetic acid | 39.6 mmol, 7.20 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | dicyclohexylcarbodiimide | 42 mmol, 8.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-hydroxy-6-methyl-2-pyrone | 39.6 mmol, 5.00 g | OC1=CC(OC(=C1)C)=O | C6H6O3
catalyst | 4-dimethylaminopyridine | 2.0 mmol, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 4.0 mmol, 0.48 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 4-hydroxy-6-methyl-3-(3-nitrophenylacetyl)-2-pyrone | 6.60 g, 58% | OC1=C(C(OC(=C1)C)=O)C(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H11NO6
